US09290451B2
b) 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid [1-(azetidine-1-carbonyl)-1-ethyl-propyl]-amide
The title compound was synthesized in analogy to Example 1, using 2-(5-cyclopropyl-6-(cyclopropylmethoxy)picolinamido)-2-ethylbutanoic acid and azetidine (CAN 503-29-7) as starting materials. MS (EI): m/e=386.0 [M+H]+.

reactant | 2-(5-cyclopropyl-6-(cyclopropylmethoxy)picolinamido)-2-ethylbutanoic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)NC(C(=O)O)(CC)CC | C19H26N2O4
reactant | azetidine | N1CCC1 | C3H7N
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid [1-(azetidine-1-carbonyl)-1-ethyl-propyl]-amide | N1(CCC1)C(=O)C(CC)(CC)NC(=O)C1=NC(=C(C=C1)C1CC1)OCC1CC1 | C22H31N3O3
